US05223529
Working in a manner similar to that described in Example 1, but starting with 3-amino-N,N-diphenylpropionamide (1 g) and 3-methylphenyl isocyanate (0.55 g), and after recrystallization in acetonitrile, 3-[3-(3-methylphenyl)ureido]-N,N-diphenylpropionamide (0.85 g), m.p. 179° C., is obtained.

reactant | 3-amino-N,N-diphenylpropionamide | 1 g | NCCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C15H16N2O
reactant | 3-methylphenyl isocyanate | 0.55 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 3-[3-(3-methylphenyl)ureido]-N,N-diphenylpropionamide | 0.85 g | CC=1C=C(C=CC1)NC(NCCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H23N3O2
